US04166120
A solution of 8.3 g of 1-benzyl-4-(4-chloro-2-fluorobenzyl)-4-piperidinol in 75 ml of benzene is added dropwise to a stirred suspension at ambient temperature of 1.5 g of sodium hydride (50% oil dispersion) in 100 ml of benzene. After total addition, the reaction mixture is brought to reflux before adding 35 ml of dimethylformamide. Thereafter, the reaction mixture is sequentially refluxed for 15 minutes, cooled to ambient temperature, and diluted by the dropwise addition of 100 ml of water. The reaction mixture is poured into 1 liter of ice-water and extracted three times with ether. The combined ether extracts are successively washed with a saturated sodium chloride solution, dried and the ether is then removed under reduced pressure, leaving an oil. The oil is boiled in hexane and the hexane removed, leaving a yellow oil which solidifies upon standing. The oil is dissolved in ether where it is converted to its hydrogen chloride salt. The salt is recrystallized thrice from an ethyl alcohol-ether mixture to provide the product 2,3-dihydro-1' -benzyl-6-chlorospiro[benzofuran-2,4'-piperidine]hydrochloride, mp 257°-259° C.

reactant | 1-benzyl-4-(4-chloro-2-fluorobenzyl)-4-piperidinol | 8.3 g | C(C1=CC=CC=C1)N1CCC(CC1)(O)CC1=C(C=C(C=C1)Cl)F | C19H21ClFNO
reactant | sodium hydride | 1.5 g | [H-].[Na+]
reactant | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
reactant | water | 100 ml | O | H2O
solvent | benzene | 75 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | hexane | CCCCCC | C6H14
solvent | ether | CCOCC | C4H10O
product | 2,3-dihydro-1' -benzyl-6-chlorospiro[benzofuran-2,4'-piperidine]hydrochloride | Cl.C(C1=CC=CC=C1)N1CCC2(CC1)OC1=C(C2)C=CC(=C1)Cl | InChI=1S/C19H20ClNO.ClH/c20-17-7-6-16-13-19(22-18(16)12-17)8-10-21(11-9-19)14-15-4-2-1-3-5-15;/h1-7,12H,8-11,13-14H2;1H
